US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(naphthalen-2-yl)imidazolidin-2-one (3A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 70 mg, 0.344 mmol) was reacted with 2-bromonaphthalene (85.68 mg, 0.413 mmol), 1,4-dioxane (5 mL), copper iodide (6.5 mg, 0.034 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (4.8 mg, 0.034 mmol) and potassium phosphate (219 mg, 1.034 mmol) to afford the crude product. Purification by column chromatography on silica gel (2% methanol in CHCl3), followed by preparative HPLC afforded 13 mg of the product (12% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.344 mmol, 70 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-bromonaphthalene | 0.413 mmol, 85.68 mg | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.034 mmol, 4.8 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.034 mmol, 219 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.034 mmol, 6.5 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(naphthalen-2-yl)imidazolidin-2-one | 13 mg, 12% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=CC=CC=C2C=C1)=O | C21H19N3O
